US07713990B2
3-(3,4-Dichloro-phenoxy)-8-(1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane
To 1 g of [3-(3,4-dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]-acetonitrile in 25 ml anhydrous toluene was added 0.7 g of triethylamin hydrochloride and 0.3 g sodium azide. The reaction mixture was stirred at 60-62° C. for 5 days, the product precipitated from the mixture and was isolated by filtration. Yield 0.27 g (24%) Mp. 233-235° C. (sublimation).

reactant | [3-(3,4-dichloro-phenoxy)-8-aza-bicyclo[3.2.1]oct-8-yl]-acetonitrile | 1 g | ClC=1C=C(OC2CC3CCC(C2)N3CC#N)C=CC1Cl | C15H16Cl2N2O
reactant | triethylamin hydrochloride | 0.7 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 0.3 g | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,4-Dichloro-phenoxy)-8-(1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane | ClC=1C=C(OC2CC3CCC(C2)N3CC3=NN=NN3)C=CC1Cl | C15H17Cl2N5O
